US09422293B2
(4-tert-Butyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-amine
To a solution of 4-chloro-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine (27 mg, 0.085 mmol) in n-BuOH (1 mL) was added 4-tert-butylaniline (27 μL, 0.17 mmol). After 2 h at 135° C., the mixture was cooled to rt, quenched with saturated aqueous (satd. aq.) NaHCO3, and extracted with EtOAc. The combined organic layers were dried (Na2SO4) and concentrated. The residue was purified (FCC) to give the title compound (33 mg, 89%). MS (ESI): mass calcd. for C24H26F3N5, 441.21; m/z found, 442.2 [M+H]+. 1H NMR (CDCl3): 8.50 (s, 1H), 8.40-8.37 (m, 1H), 7.90-7.85 (m, 1H), 7.46-7.36 (m, 4H), 6.98-6.93 (m, 1H), 6.45 (s, 1H), 3.70-3.65 (m, 2H), 3.64-3.60 (m, 2H), 3.26-3.20 (m, 2H), 3.02-2.95 (m, 2H), 1.32 (s, 9H). Alternatively, the reaction of this step may be performed in the microwave at 180° C. for 30 min.

reactant | 4-chloro-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine | 0.085 mmol, 27 mg | ClC1=NC=NC=2CCN(CCC21)C2=NC=CC=C2C(F)(F)F | C14H12ClF3N4
reactant | 4-tert-butylaniline | 0.17 mmol, 27 μL | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | n-BuOH | 1 mL | CCCCO | C4H10O
product | (4-tert-Butyl-phenyl)-[7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-amine | 33 mg, 89% | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC=NC=2CCN(CCC21)C2=NC=CC=C2C(F)(F)F | C24H26F3N5
